US04698333
0.5 g of zinc octoate and 4.45 g of 3-chlorophenyl isocyanate were added to 8.2 g of phenylhydroxymalonic acid diamide in 30 ml of ethyl acetate and the mixture was kept at 50° C. for 30 minutes. After cooling, the precipitate was filtered off with suction and recrystallised from acetone. 5.6 g of phenyl-(3-chlorophenylaminocarbonyloxy)-malonic acid diamide of melting point 196°-198° C. were obtained.

reactant | 3-chlorophenyl isocyanate | 4.45 g | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
reactant | phenylhydroxymalonic acid diamide | 8.2 g | C1(=CC=CC=C1)C(C(=O)N)(C(=O)N)O | C9H10N2O3
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc octoate | 0.5 g | CCCCCCCC(=O)[O-].CCCCCCCC(=O)[O-].[Zn+2]
product | phenyl-(3-chlorophenylaminocarbonyloxy)-malonic acid diamide | 5.6 g | C1(=CC=CC=C1)C(C(=O)N)(C(=O)N)OC(=O)NC1=CC(=CC=C1)Cl | C16H14ClN3O4
